US07851465B2
(Z)-7-Chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (128 mg, 0.235 mmol) was dissolved in anisole (1 mL) under nitrogen and AlCl3 (125 mg, 0.939 mmol) was added in one portion. The resulting orange solution was heated to 85° C. for 2 h. After the mixture was cooled to room temperature, ice and ethyl acetate were added and the mixture was stirred for 30 min. The layers were partitioned and the organic layer was washed with water then brine. The combined aqueous layers were back-extracted with ethyl acetate and the combined organic layers were dried (MgSO4), filtered and evaporated. The residue was chromatographed on silica gel, eluting with 5%, then 30% ethyl acetate in hexanes to give (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one as a white solid (99 mg, 99%). 1H NMR (300 MHz, CDCl3) δ 3.60-3.77 (m, 2H), 3.84 (s, 3H), 3.84-3.86 (m, 1H), 6.88 (dd, J=7, 2 Hz, 2H), 7.08 (d, J=9 Hz, 1H), 7.15-7.33 (m, 3H), 7.38 (dd, J=7, 2 Hz, 2H), 7.45 (dd, J=9, 2 Hz, 1H), 7.60 (dd, J=8, 2 Hz, 1H), 8.59 (s, 1H); ESI m/z 425.1.

reactant | (Z)-7-Chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.235 mmol, 128 mg | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)OC)CC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C31H26Cl2N2O3
reactant | AlCl3 | 0.939 mmol, 125 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
product | (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 99 mg, 99% | ClC1=CC\2=C(NC(C(\N=C2\C2=CC=C(C=C2)OC)CC2=C(C=CC=C2)Cl)=O)C=C1 | C23H18Cl2N2O2
